US07294635B2
To a solution of 2-bromomethyl-1-fluoro-4-nitro-benzene (131 mg, 0.56 mmol), which was generated in Example 64) and dimethylamine hydrochloride (44 mg, 0.54 mmol) in 4 mL dioxane, was added cesium carbonate (546 mg, 1.68 mmol). The mixture was heated to 70° C. under argon for 12 hours. Work up and RP prep HPLC to give (2-fluoro-5-nitro-benzyl)-dimethyl-amine.

reactant | 2-bromomethyl-1-fluoro-4-nitro-benzene | 0.56 mmol, 131 mg | BrCC1=C(C=CC(=C1)[N+](=O)[O-])F | C7H5BrFNO2
reactant | dimethylamine hydrochloride | 0.54 mmol, 44 mg | Cl.CNC
reactant | cesium carbonate | 1.68 mmol, 546 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | (2-fluoro-5-nitro-benzyl)-dimethyl-amine | FC1=C(CN(C)C)C=C(C=C1)[N+](=O)[O-] | C9H11FN2O2
